US04601797
An electrolysis was run as in Example 9, but the flow cell had a copper cathode and graphite plate anode. The catholyte contained a 15 gram amount of p-isobutylacetophenone and electrolysis was conducted at 400 milliamperes with 18 volt cell voltage. Sampling during the electrolysis indicated hydroxyibuprofen yields of 68 to 85%, with yields of 80-85% much of the time. A total of 16000 coulombs was passed and toward the end of the electrolysis there was some product consumption, the amount of hydroxyibuprofen declining from 8.4 grams to 7.3 grams. Current efficiency, based on isobutylacetophenone reacted, reached levels of 90%, and the amount of isobutylphenylethanol produced did not exceed 0.5 gram. The electrolysis was repeated but using a current of 200 milliamperes. Results were similar, but the hydroxyibuprofen yield was 85-90% at times while current efficiency was somewhat lower, being near 80% much of the time.

reactant | p-isobutylacetophenone | C(C(C)C)C1=CC=C(C=C1)C(C)=O | C12H16O
reactant | hydroxyibuprofen | OC(C(O)=O)(C)C1=CC=C(CC(C)C)C=C1 | C13H18O3
catalyst | copper | [Cu] | Cu
product | isobutylphenylethanol | C(C(C)C)C(C)(O)C1=CC=CC=C1 | C12H18O
